* C:\Users\ohvic\Documents\ITBA\Electrónica 1\Electro1\Trabajo Práctico 2\LTSPICE\carga_pasiva\darlington.asc
Q1 Vcc N001 N002 0 BC547B
Q2 Vcc N002 vout 0 BC547B
RB Vcc N001 1k
Vcc Vcc 0 9
RE vout 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\ohvic\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0.1
.backanno
.end
